US08686184B2
2-{3-[(1R,2R)-2-Carboxy-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic Acid (R1═—OH)
2-{3-[(1R,2R)-2-Ethoxycarbonyl-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic acid was combined with THF (5 mL) and 10 M aqueous NaOH (96 μL, 4.0 eq.). The reaction was stirred for 4 hours. Upon completion of the reaction was completed, AcOH (1.5 mL) was added and the product was purified by preparative HPLC to yield the title compound (10 mg, 100% purity). MS m/z [M+H]+ calc'd for C22H22F3NO6, 454.14. found 454.

reactant | 2-{3-[(1R,2R)-2-Ethoxycarbonyl-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic acid | C(C)OC(=O)[C@@H]([C@@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)CCCC1=C(C(=O)O)C=CC=C1)O | C24H26F3NO6
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | NaOH | 10 M, 96 μL, 4.0 eq. | [OH-].[Na+]
solvent | AcOH | 1.5 mL | CC(=O)O | C2H4O2
product | 2-{3-[(1R,2R)-2-Carboxy-2-hydroxy-1-(2-trifluoromethyl-benzyl)-ethylcarbamoyl]-propyl}-benzoic Acid | 10 mg, 100% | C(=O)(O)[C@@H]([C@@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)CCCC1=C(C(=O)O)C=CC=C1)O | C22H22F3NO6
